US07285562B2
N-isobutyl-4-{2-Cyano-2-[isopropyl-(2-mercapto-benzothiazol-6-yl)carbamoyl]vinyl}-benzamide (Table 3, Entry 1):
Combined 4-{2-Cyano-2-[isopropyl-(2-mercapto-benzothiazol-6-yl)-carbamoyl]-vinyl}benzoic acid (50 mg, 0.118 mmol), isobutylamine (13 μl, 0.130 mmol), HATU (58 mg, 0.153 mmol), and N,N-diisopropylethylamine (27 μl, 0.153 mmol) in anhydrous THF (1.1 ml). The mixture was stirred 2 hours, filtered through celite and concentrated in vacuo. The residue was partitioned between ethyl acetate and 1 M aqueous citric acid. The organic extract was dried over magnesium sulfate and purified by preparative TLC (10% methanol, 90% dichloromethane) to yield 28 mg (50%). 1H NMR(CDCl3) δ0.93 (d, 6H), 1.18 (d, 6H), 1.86 (m, 1H), 3.25 (t, 1H), 4.95 (m, 1H), 6.39 (t, 1H), 7.13 (dd, 1H), 724 (m, 3H), 7.72 (app q, 4H), 7.91 (s, 1H); ESIMS: m/z 477 (M-H).

reactant | 4-{2-Cyano-2-[isopropyl-(2-mercapto-benzothiazol-6-yl)-carbamoyl]-vinyl}benzoic acid | 0.118 mmol, 50 mg | C(#N)C(=CC1=CC=C(C(=O)O)C=C1)C(N(C1=CC2=C(N=C(S2)S)C=C1)C(C)C)=O | C21H17N3O3S2
reactant | isobutylamine | 0.130 mmol, 13 μl | C(C(C)C)N | C4H11N
reactant | HATU | 0.153 mmol, 58 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.153 mmol, 27 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 1.1 ml | C1CCOC1 | C4H8O
product | N-isobutyl-4-{2-Cyano-2-[isopropyl-(2-mercapto-benzothiazol-6-yl)carbamoyl]vinyl}-benzamide | C(C(C)C)NC(C1=CC=C(C=C1)C=C(C(N(C1=CC2=C(N=C(S2)S)C=C1)C(C)C)=O)C#N)=O | C25H26N4O2S2
